### PR TITLE
Let destruct consistently use a whnf-normalized type of the destructed term

### LINKED ISSUE #11504: Anomaly when destructing universal quantification over variable which turns out to be unused after unfolding
```coq
Definition hl_inv(a b c: nat): Prop := a > 0 /\ b > 0.

Goal forall a b,
    (forall m, hl_inv a b m) ->
    True.
Proof.
  intros.
  destruct H.
```

results in

```
Error: Anomaly "Not an evar resulting of a dependent binding." 
Please report at http://coq.inria.fr/bugs/.
```

Coq Version: master (9508ca5)

### LINKED ISSUE #14090: Anomaly "Not an evar resulting of a dependent binding."
#### Description of the problem

```
Lemma t (H : forall x, (fun _ : unit => unit) x) : True.
destruct H.
(* Anomaly "Not an evar resulting of a dependent binding."
Please report at http://coq.inria.fr/bugs/.*)
```

#### Coq Version
master

### PR DESCRIPTION
**Pull request by LasseBlaauwbroek**
This will prevent goals that were marked as non-dependent from becoming
dependent later, if its type is not properly normalized then.

Fixes #11504
Fixes #14090

See #14097 for previous PR.

**Kind:** bug fix

- [x] Added / updated test-suite
- [x] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).

### CODE REVIEW

File: test-suite/bugs/closed/bug_11504.v [hunk 1]
```diff
@@ -0,0 +1,25 @@
+(* These examples should fail with "Unable to find an instance for the variable ..." *)
+(* but they used to raise an anomaly from 8.5 to 8.13 *)
```
Comment (herbelin) [inline test-suite/bugs/closed/bug_11504.v:2]:
```suggestion
(* These examples should generate side conditions for the non-instantiated non-dependent parameters *)
(* but they used to raise an anomaly from 8.5 to 8.13 *)
```

**Review by herbelin — APPROVED** [review]
The PR uses the `splay_prod`-normalized type of the term to destruct rather than the `get_type_of`-obtained type. This allows to get rid of spurious dependencies. This seems to be right to the point.

The message in the test-suite file needs to be changed though.

**Comment by ppedrot** [comment]
@herbelin you should probably assign

**Comment by herbelin** [comment]
Assigning. I allowed myself to rebase the branch to check if the dpdgraph failure is resolved. Will merge in a few days if CI green.

**Comment by LasseBlaauwbroek** [comment]
Looks to me like the dpdgraph failure is real. My guess is that because the types are slightly different, which ends up in a cast or something like that. Shall I create an overlay in dpdgraph to update the failing test?

**Comment by herbelin** [comment]
> Shall I create an overlay in dpdgraph to update the failing test?

That would be useful, yes.

**Comment by herbelin** [comment]
@LasseBlaauwbroek: I could not reproduce the dpdgraph error locally on my computer. I rebased to double-check.

**Comment by LasseBlaauwbroek** [comment]
Sorry for the delay on this. I was able to reproduce. Overlay added. The gitlab pipeline needs to be restarted though.

**Comment by herbelin** [comment]
> I was able to reproduce

OK, maybe was I on the wrong branch.

You should then submit your overlay as a PR upstream, so that it can be merged synchronously with this PR.

**Comment by LasseBlaauwbroek** [comment]
Overlay PR: Karmaki/coq-dpdgraph#82

**Comment by JasonGross** [comment]
Is this going to impact performance?  Should it be benched?

**Comment by ppedrot** [comment]
Doesn't cost anything: https://gitlab.com/coq/coq/-/jobs/1240132380

**Comment by LasseBlaauwbroek** [comment]
I´d think this is actually cheaper

**Comment by ppedrot** [comment]
```
┌─────────────────────────────┬─────────────────────────┬───────────────────────────────────────┬───────────────────────────────────────┬─────────────────────────┬─────────────────┐
│                             │      user time [s]      │              CPU cycles               │           CPU instructions            │  max resident mem [KB]  │   mem faults    │
│                             │                         │                                       │                                       │                         │                 │
│                package_name │     NEW      OLD  PDIFF │            NEW             OLD  PDIFF │            NEW             OLD  PDIFF │     NEW      OLD  PDIFF │ NEW  OLD  PDIFF │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                         coq │    4.61     4.64  -0.65 │    12957057899     12978495021  -0.17 │    23148019699     23147398027   0.00 │  281856   281848   0.00 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                  coq-stdlib │  424.08   426.66  -0.60 │  1189385408181   1195886108759  -0.54 │  1470549071181   1470151852214   0.03 │  568872   568988  -0.02 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                 coq-bignums │   60.93    61.01  -0.13 │   170460359680    170531037809  -0.04 │   211759648805    211755004339   0.00 │  464744   464836  -0.02 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│               coq-fourcolor │ 2801.39  2804.61  -0.11 │  7805577683625   7813870157070  -0.11 │ 12244194028204  12245786592422  -0.01 │  730664   730772  -0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│       coq-engine-bench-lite │  342.05   342.34  -0.08 │   966315307487    966914320644  -0.06 │  1649097642553   1655326045839  -0.38 │ 3119076  3119072   0.00 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                coq-rewriter │  740.42   741.04  -0.08 │  2063947722232   2065326086351  -0.07 │  2934006470685   2932832290567   0.04 │ 1100672  1100648   0.00 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│             coq-fiat-crypto │ 5185.69  5189.84  -0.08 │ 14454702060032  14458183269261  -0.02 │ 23672338511545  23674315889566  -0.01 │ 2210760  2208080   0.12 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                  coq-geocoq │ 1492.85  1493.73  -0.06 │  4169685383849   4174141975581  -0.11 │  5637973357353   5637543262761   0.01 │  992096   992200  -0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│               coq-fiat-core │  118.75   118.76  -0.01 │   341838090938    341634567083   0.06 │   409594107238    408909198718   0.17 │  479068   479004   0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│      coq-mathcomp-ssreflect │   59.37    59.35   0.03 │   165884485042    165447417297   0.26 │   188456064301    188469788206  -0.01 │  520856   520840   0.00 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                    coq-corn │ 1621.94  1620.98   0.06 │  4520771299187   4518756245063   0.04 │  5992285935849   5992097601753   0.00 │  790288   790316  -0.00 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                    coq-hott │  297.42   297.22   0.07 │   839091971050    837846608007   0.15 │  1191181598344   1190855776249   0.03 │  583916   583940  -0.00 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│             coq-lambda-rust │ 1392.94  1391.98   0.07 │  3881845813355   3878338568399   0.09 │  5049315190450   5053353314391  -0.08 │ 1110400  1109592   0.07 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                   coq-flocq │  164.21   164.09   0.07 │   457761178560    457837013265  -0.02 │   508234983506    508317549029  -0.02 │  818720   818612   0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│ coq-rewriter-perf-SuperFast │  817.22   816.55   0.08 │  2278626092609   2278389529538   0.01 │  3295581298510   3295607759791  -0.00 │ 1100484  1100680  -0.02 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│  coq-performance-tests-lite │ 1666.83  1665.30   0.09 │  4665134386225   4659724933801   0.12 │  7198084815949   7195564917311   0.04 │ 2154256  2154076   0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│              coq-verdi-raft │ 1281.59  1280.13   0.11 │  3569478792771   3571508728914  -0.06 │  4623060743589   4622824679751   0.01 │  900556   900644  -0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│               coq-perennial │ 7489.43  7480.71   0.12 │ 20873254097877  20849267465584   0.12 │ 28923254551048  28924267994117  -0.00 │ 3115472  3114896   0.02 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                 coq-unimath │ 4295.00  4289.31   0.13 │ 11973296660565  11935030417296   0.32 │ 21238473448473  21241930614200  -0.02 │ 1121244  1083772   3.46 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│            coq-fiat-parsers │  668.71   667.82   0.13 │  1874167054735   1871562019712   0.14 │  2562892724772   2563027741489  -0.01 │ 3677508  3677848  -0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                   coq-verdi │  108.94   108.78   0.15 │   302410572873    301915759977   0.16 │   386825519283    386321185116   0.13 │  544148   544720  -0.11 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│      coq-mathcomp-character │  169.48   169.22   0.15 │   472284102935    471525266053   0.16 │   595985604391    595872576235   0.02 │  713660   741036  -3.69 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│              coq-coquelicot │   77.16    77.00   0.21 │   213865190896    212857908013   0.47 │   241547980250    241133742497   0.17 │  559788   560528  -0.13 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│      coq-mathcomp-odd-order │ 1169.19  1166.61   0.22 │  3257227283920   3250367846509   0.21 │  4696582757538   4696676904913  -0.00 │  910636   910536   0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│            coq-math-classes │  191.50   191.06   0.23 │   537024427659    535784865558   0.23 │   653324009292    653339806645  -0.00 │  479692   479576   0.02 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│        coq-mathcomp-algebra │  156.21   155.75   0.30 │   436095097073    434721257429   0.32 │   507224125834    507169996075   0.01 │  555584   555436   0.03 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│          coq-mathcomp-field │  247.10   246.30   0.32 │   688376710101    686371620061   0.29 │   951466860383    951441007424   0.00 │  667720   667652   0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│       coq-mathcomp-solvable │  191.40   190.76   0.34 │   533869171489    532690460796   0.22 │   679745014347    679738413036   0.00 │  689540   689536   0.00 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                 coq-coqutil │   62.48    62.22   0.42 │   175045157075    175064240977  -0.01 │   210622295722    210314917701   0.15 │  523544   523400   0.03 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                coq-bedrock2 │  343.19   341.74   0.42 │   956574053257    952636879903   0.41 │  1534676626350   1532940245624   0.11 │  774108   774020   0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                coq-coqprime │ 1527.23  1518.93   0.55 │  4251878075316   4231269363571   0.49 │  6589512409143   6589152008649   0.01 │ 1056468  1056308   0.02 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                   coq-color │  544.07   541.10   0.55 │  1525319145960   1518536652273   0.45 │  1729259330842   1728412986249   0.05 │ 1104080  1146168  -3.67 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│                    coq-core │  111.08   110.47   0.55 │   311820711433    310864973328   0.31 │   452008773747    451824417854   0.04 │  274272   274304  -0.01 │   0    0    nan │
├─────────────────────────────┼─────────────────────────┼───────────────────────────────────────┼───────────────────────────────────────┼─────────────────────────┼─────────────────┤
│       coq-mathcomp-fingroup │   54.00    53.69   0.58 │   150582519494    150284607938   0.20 │   188577338672    188593707949  -0.01 │  481920   481768   0.03 │   0    0    nan │
└─────────────────────────────┴─────────────────────────┴───────────────────────────────────────┴───────────────────────────────────────┴─────────────────────────┴─────────────────┘
```

**Comment by ppedrot** [comment]
Nothing observable in the bench, @herbelin you can proceed with the merge.
